US07528147B2
5-Benzyl-3-hydroxyhexahydropyrrolo[3,4-c]pyrrole-1-one, (7 g; 30 mmol) in suspension in dichloromethane (50 ml) is placed in a 1000 ml three-necked flask and is then cooled in an ice bath. Trimethylsilane (7.1 g; 60 mmol) is run in slowly at 3° C. The reaction mixture is homogeneous and is left to react at 25° C. for 10 minutes, and is then cooled to 3° C. in order to run in trifluoro-acetic acid (50 ml). The reaction mixture is agitated at 20° C. for 16 hours and then evaporated under reduced pressure. The residue is taken up in a mixture of ethyl acetate (100 ml) and 4 N aqueous sodium peroxide (50 ml), separated by settling out and washed with water (100 ml). After drying over magnesium sulfate and evaporation under reduced pressure, a yellow-colored oil is isolated, which is purified by chromatography on silica gel (silica: 40-63 μm eluent: 90/10 ethyl acetate/methanol). The fractions containing the expected compound are combined and then evaporated under reduced pressure, giving 5-benzylhexahydropyrrolo[3,4-c]pyrrole-1-one, (7.2 g) which is used directly in the following step.

reactant | 5-Benzyl-3-hydroxyhexahydropyrrolo[3,4-c]pyrrole-1-one | C(C1=CC=CC=C1)N1CC2C(C1)C(NC2=O)O | C13H16N2O2
reactant | Trimethylsilane | 60 mmol, 7.1 g | C[SiH](C)C | C3H10Si
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | trifluoro-acetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 5-benzylhexahydropyrrolo[3,4-c]pyrrole-1-one | 7.2 g | C(C1=CC=CC=C1)N1CC2C(C1)CNC2=O | C13H16N2O
